US04675412
In 20 ml of methanol were dissolved 3.98 g (24 mmole) of chloral hydrate and 3.72 g (20 mmole) of p-toluenesulfonylhydrazine, and the mixture was stirred at room temperature for 40 minutes to form trichloroacetaldehyde-p-toluenesulfonylhydrazone.

reactant | chloral hydrate | 24 mmole, 3.98 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | p-toluenesulfonylhydrazine | 20 mmole, 3.72 g | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
solvent | methanol | 20 ml | CO | CH4O
product | trichloroacetaldehyde-p-toluenesulfonylhydrazone | C1(=CC=C(C=C1)S(=O)(=O)NN=CC(Cl)(Cl)Cl)C | C9H9Cl3N2O2S
